US04367234
Ethyl 1-(2-chlorophenyl)-1-hydroxymethanecarboximidate hydrochloride (13 g., 52 mmoles) was combined with 350 ml. of tetrahydrofuran and cooled in an ice-water bath. Triethylamine (16.77 g., 0.166 mole) was added and the stirred mixture perfused with phosgene for 45 minutes at 0° C. After an additional 1 hour at the same temperature, the reaction mixture was poured slowly over 1 l. of crushed ice, with isolation and recrystallization from toluene according to Example 3 to yield 5-(2-chlorophenyl)oxazolidine-2,4-dione (7.43 g., 68%; m.p. 106°-108° C.).

reactant | Ethyl 1-(2-chlorophenyl)-1-hydroxymethanecarboximidate hydrochloride | 52 mmoles, 13 g | Cl.ClC1=C(C=CC=C1)C(C(OCC)=N)O
reactant | Triethylamine | 0.166 mole, 16.77 g | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(2-chlorophenyl)oxazolidine-2,4-dione | 7.43 g, 68% | ClC1=C(C=CC=C1)C1C(NC(O1)=O)=O | C9H6ClNO3
